M4 (VOUT1 VIN2 net11 VDD) pmos4
M2 (net7 VIN1 net11 VDD) pmos4
M0 (net11 net7 VDD VDD) pmos4
? Missing component
M3 (net7 VIN1 net10 VSS) nmos4
M1 (net10 net7 VSS VSS) nmos4
C0 (VOUT1 VSS) capacitor
